US04076820
2-Amino-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine dihydrochloride (3.65g) was dissolved in dichloromethane (30 ml), and the solution ice-cooled and stirred whilst a solution of triethylamine (2.83 g) in dichloromethane (10 ml) was added. The ice-cooling and stirring were maintained whilst a solution of ethanesulphonyl chloride (2.20 g) in dichloromethane (10 ml) was added dropwise. The reaction was stirred at room temperature for a further 3 hours before washing the solution twice with aliquots of water (50 ml). The dichloromethane solution was evaporated to yield a yellow oil, which was dissolved in ethanol (10 ml) and ethanol saturated with hydrogen chloride was added dropwise until the solution was acidic (pH2). On standing for 0.1 hour white crystals were produced, which, after standing for a further 0.1 hour were removed by filtration to constitute a first crop. After allowing the filtrate to stand for 1 hour the solution was filtered again to produce a second crop of white crystals. A third crop was obtained by evaporation of the filtrate. Thin-layer-chromatography indicated that two products had been formed. The two products were isolated by fractional crystallisation of the three crops from hot methanol to give chromatographically pure 2-ethanesulphonamido-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine hydrochloride, isomer A (1.13g) and chromatographically pure 2-ethanesulphonamido-1,3,4,6,7,11b-hexahydro-2H-benzo[a]-quinolizine hydrochloride, isomer B (1.05 g). The isomer A hydrochloride had m.p. 234°-6° C (C15H22N2O2S.HCl requires C, 54.45; H, 7.01; N, 8.47%. Found: C, 54.25; H, 6.97; N, 8.18%) and isomer B hydrochloride had m.p. 227°-8° C (C15H22N2O2S.HCl requires C, 54.45; H, 7.01; N, 8.47%. Found: C, 54.46; H, 7.09; N, 8.16%).

reactant | 2-Amino-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine dihydrochloride | 3.65g | Cl.Cl.NC1CCN2CCC3=C(C2C1)C=CC=C3
reactant | triethylamine | 2.83 g | C(C)N(CC)CC | C6H15N
reactant | ethanesulphonyl chloride | 2.20 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 2-ethanesulphonamido-1,3,4,6,7,11b-hexahydro-2H-benzo[a]-quinolizine hydrochloride | Cl.C(C)S(=O)(=O)NC1CCN2CCC3=C(C2C1)C=CC=C3 | InChI=1S/C15H22N2O2S.ClH/c1-2-20(18,19)16-13-8-10-17-9-7-12-5-3-4-6-14(12)15(17)11-13;/h3-6,13,15-16H,2,7-11H2,1H3;1H
